US06967201B1
1-(5-fluoro-6-chlorobenzofur-7-yl)-3(S)-methylpiperazine Hydrochloride
Beginning with 0.27 gm (1.11 mMol) 5-fluoro-6-chloro-7-bromobenzofuran and 0.11 gm (1.11 mMol) 2(S)-methylpiperazine, the title compound was prepared essentially as described in GENERAL PROCEDURE IV.

reactant | 5-fluoro-6-chloro-7-bromobenzofuran | 1.11 mMol, 0.27 gm | FC=1C(=C(C2=C(C=CO2)C1)Br)Cl | C8H3BrClFO
reactant | 2(S)-methylpiperazine | 1.11 mMol, 0.11 gm | C[C@@H]1NCCNC1 | C5H12N2
product | 1-(5-fluoro-6-chlorobenzofur-7-yl)-3(S)-methylpiperazine Hydrochloride | Cl.FC=1C(=C(C2=C(C=CO2)C1)N1C[C@@H](NCC1)C)Cl | InChI=1S/C13H14ClFN2O.ClH/c1-8-7-17(4-3-16-8)12-11(14)10(15)6-9-2-5-18-13(9)12;/h2,5-6,8,16H,3-4,7H2,1H3;1H/t8-;/m0./s1
